US08729102B2
G) 6-(6-(Methoxymethoxy)-2-methyl-2,3-dihydrobenzofuran-2-yl)pyridin-3-ol
A mixture of 2-(6-(methoxymethoxy)-2-methyl-2,3-dihydrobenzofuran-2-yl)-5-(triisopropylsilyloxy)pyridine (8 g) and tetrabutylammonium fluoride (5.66 g) in THF (30 mL) was stirred at ambient temperature for 30 min. The mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane/methanol) to afford the title compound (4.66 g).

reactant | 2-(6-(methoxymethoxy)-2-methyl-2,3-dihydrobenzofuran-2-yl)-5-(triisopropylsilyloxy)pyridine | 8 g | COCOC1=CC2=C(CC(O2)(C)C2=NC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)C=C1 | C25H37NO4Si
reactant | tetrabutylammonium fluoride | 5.66 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-(6-(Methoxymethoxy)-2-methyl-2,3-dihydrobenzofuran-2-yl)pyridin-3-ol | 4.66 g | COCOC1=CC2=C(CC(O2)(C)C2=CC=C(C=N2)O)C=C1 | C16H17NO4
